US07488740B2
3. 2-Chloro-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine
Heat 7-[3-(trifluoromethyl)pyridin-2-yl]-4-{[5-(trifluoromethyl)pyridin-2-yl]amino}-[1,8]naphthyridin-2-ol (112 mg) and phosphorus oxychloride (1 mL) at reflux for 1 hour. Evaporate to dryness, partition between ethyl acetate and saturated aqueous NaHCO3 and extract with EtOAc. Dry the combined organics over Na2SO4, concentrate under vacuum to obtain the title compound.

reactant | 7-[3-(trifluoromethyl)pyridin-2-yl]-4-{[5-(trifluoromethyl)pyridin-2-yl]amino}-[1,8]naphthyridin-2-ol | 112 mg | FC(C=1C(=NC=CC1)C1=CC=C2C(=CC(=NC2=N1)O)NC1=NC=C(C=C1)C(F)(F)F)(F)F | C20H11F6N5O
reactant | phosphorus oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine | ClC1=NC2=NC(=CC=C2C(=C1)NC1=NC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C20H10ClF6N5
